US06630128B1
12-Bromododecan-1-ol
1,12-Dodecanediol (50 g, 0.25 mol) in hydrogen bromide 48% (220 ml) was continuously extracted with petroleum ether (b.p. 80-100° C.) (300 ml) for 18 hours. The solvent was evaporated under reduced pressure and the crude oil obtained was filtered through a pad of silica gel. Elution with petroleum ether (b.p. 40-60° C.) gave a colourless fraction containing 1,12-dibromododecane. The silica gel was then eluted with acetone to give the title compound as a pale yellow oil after evaporation of the solvent. The title compound crystallised upon cooling and was recrystallised from petroleum ether (b.p. 40-60° C.).

reactant | 1,12-Dodecanediol | 0.25 mol, 50 g | C(CCCCCCCCCCCO)O | C12H26O2
reactant | 1,12-dibromododecane | BrCCCCCCCCCCCCBr | C12H24Br2
solvent | hydrogen bromide | 220 ml | Br | BrH
product | 12-Bromododecan-1-ol | BrCCCCCCCCCCCCO | C12H25BrO
